US07396847B2
(5R)-3-(4-Iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
(5S)-5-(Aminomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one (6.0 g, 18.9 mmol) was dissolved in methanol (150 ml, c=0.1M) and cooled to 0° C. Diisopropylethylamine (13.1 ml, 75.4 mmol) was added and the reaction stirred at 0° C. for 5 min; toluenesulfonic acid 2-(2,2-dichloro-1-methylethylidene)hydrazide was then added and the reaction stirred overnight. The volatiles were concentrated in vacuo, dichloromethane was added and some product crystallized from solution; the remaining residue was purified by flash chromatography on silica gel using 0-5% methanol in dichloromethane as the eluent. The relevant fractions were combined giving 5.5 g of the desired product.

reactant | (5S)-5-(Aminomethyl)-3-(4-iodophenyl)-1,3-oxazolidin-2-one | 18.9 mmol, 6.0 g | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C10H11IN2O2
reactant | Diisopropylethylamine | 75.4 mmol, 13.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluenesulfonic acid 2-(2,2-dichloro-1-methylethylidene)hydrazide | ClC(C(C)=NNS(=O)(=O)C=1C(=CC=CC1)C)Cl | C10H12Cl2N2O2S
solvent | methanol | 0.1M, 150 ml | CO | CH4O
product | (5R)-3-(4-Iodophenyl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | 5.5 g | IC1=CC=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C13H13IN4O2
